US07759363B2
a. Preparation of 2-(2-hydroxy-1-methylethyl)-1H-benzoimidazole-4-carboxylic acid
To a solution of 2,3-diaminobenzoic acid methyl ester (2.1 g, 14.1 mmol) in 4 M HCl (90 mL) was added 2-methyl-3-hydroxypropionic acid methyl ester (5 g, 42.3 mmol). The mixture was stirred at ˜90° C. for 24 h. It was neutralized by use of aqueous sodium hydroxide solution to pH˜3, and concentrated to dryness. The residue was suspended in methanol, and filtered through a filter paper. After the filtrate was concentrated, the remaining solid residue was dissolved in water and washed with ethyl acetate. The aqueous solution was evaporated in vacuo yielding the title intermediate as a pale yellow oil (˜800 mg). The crude product was used in the next step without further purification. (m/z): [M+H]+ calcd for C11H12N2O3 221.09; found 221.3. 1H-NMR (CD3OD) δ (ppm) 8.1 (d, 1H), 7.9 (m, 1H), 7.6 (t, 1H), 3.8 (m, 2H), 3.6 (m, 1H), 1.4 (d, 3H).

reactant | 2,3-diaminobenzoic acid methyl ester | 14.1 mmol, 2.1 g | COC(C1=C(C(=CC=C1)N)N)=O | C8H10N2O2
reactant | 2-methyl-3-hydroxypropionic acid methyl ester | 42.3 mmol, 5 g | COC(C(CO)C)=O | C5H10O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | HCl | 4 M, 90 mL | Cl | ClH
product | 2-(2-hydroxy-1-methylethyl)-1H-benzoimidazole-4-carboxylic acid | ˜800 mg | OCC(C)C1=NC2=C(N1)C=CC=C2C(=O)O | C11H12N2O3
